US06720423B2
2,6-Dimethyl-phenylboronic Acid (Intermediate 64)
Following General Procedure A and using 1-bromo-2,6-dimethyl-benzene (Aldrich, 5 g, 27 mmol), 50 mL of anhydrous tetrahydrofuran, 1.7M solution of t-butyllithium in n-pentane (32 mL, 54 mmol) and trimethyl borate (6.05 mL, 54 mmol), the title compound was obtained after recrystallization from ethyl acetate-hexane mixture (0.7 g, 10%).

reactant | 1-bromo-2,6-dimethyl-benzene | 27 mmol, 5 g | BrC1=C(C=CC=C1C)C | C8H9Br
reactant | t-butyllithium | C(C)(C)(C)[Li]
reactant | n-pentane | 54 mmol, 32 mL | CCCCC | C5H12
reactant | trimethyl borate | 54 mmol, 6.05 mL | B(OC)(OC)OC | C3H9BO3
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 2,6-Dimethyl-phenylboronic Acid | CC1=C(C(=CC=C1)C)B(O)O | C8H11BO2
